US07977358B2
F] {5-[3-(3-Chloro-phenylethynyl)-phenyl]-4-methyl-1H-pyrazol-3-yl}-(3-diethylamino-pyrrolidin-1-yl)-methanone
A solution of 0.086 g (0.36 mmol) of 1-chloro-3-iodobenzene in 1.5 ml piperidine was degassed (argon) and treated with 17 mg (0.01 mmol) Pd(PPh3)4 and 3 mg (0.01 mmol) CuI. The reaction mixture was stirred at 50° C. for 10 min and then slowly (60 min) treated with 0.105 g (0.30 mmol) of (3-diethylamino-pyrrolidin-1-yl)-[5-(3-ethynyl-phenyl)-4-methyl-1H-pyrazol-3-yl]-methanone in 1.55 ml piperidine. After 30 min the bath was slowly (30 min) heated to 80° C. The reaction mixture was stirred at this temperature for 1 h and then partitioned between chilled water sat. KHCO3/Et2O (3×). The organic phases were washed with aqueous 10% NaCl, dried (Na2SO4) and evaporated. Purification by flash-chromatography on silica gel (CH2Cl2/MeOH 97.5:2.5 to 95:5) yielded 0.090 g (65%) of the title compound as light yellow foam. MS: 461.1 (MH+, 1 Cl).

reactant | 1-chloro-3-iodobenzene | 0.36 mmol, 0.086 g | ClC1=CC(=CC=C1)I | C6H4ClI
reactant | (3-diethylamino-pyrrolidin-1-yl)-[5-(3-ethynyl-phenyl)-4-methyl-1H-pyrazol-3-yl]-methanone | 0.30 mmol, 0.105 g | C(C)N(C1CN(CC1)C(=O)C1=NNC(=C1C)C1=CC(=CC=C1)C#C)CC | C21H26N4O
solvent | piperidine | 1.5 ml | N1CCCCC1 | C5H11N
solvent | piperidine | 1.55 ml | N1CCCCC1 | C5H11N
catalyst | Pd(PPh3)4 | 0.01 mmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.01 mmol, 3 mg | [Cu]I
product | {5-[3-(3-Chloro-phenylethynyl)-phenyl]-4-methyl-1H-pyrazol-3-yl}-(3-diethylamino-pyrrolidin-1-yl)-methanone | 0.090 g, 65% | ClC=1C=C(C=CC1)C#CC=1C=C(C=CC1)C1=C(C(=NN1)C(=O)N1CC(CC1)N(CC)CC)C | C27H29ClN4O
